US06608203B2
6-Methoxy-1-(4-methoxy-phenyl)-2-phenyl-1,2,3,4-tetrahydroisoquinoline
A stirred solution of 4-methoxy-N-[2-(3-methoxy-phenyl)-ethyl]-N-phenyl-benzamide in POCl3 under an atmosphere of N2 was heated at reflux for 14 hours. The solution was allowed to cool to rt and concentrated in vacuo. The residue was taken up in CH2Cl2 (30 ml) and washed with sat. NaHCO3 until CO2 evolution ceased. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo. The residue was dissolved in MeOH (20 ml), cooled to 0° C., and NaBH4 (0.105 g, 2.77 mmol) was added in a portionwise manner. The reaction was stirred for 2 hours at 0° C., then additional NaBH4 (0.105 g, 2.77 mmol) was added. The reaction was stirred at rt overnight, diluted with CH2Cl2 (50 ml), and washed with sat. NaHCO3 solution (1×50 ml). The organic layer was dried over MgSO4, filtered, and concentrated in vacuo. The residue was subjected to flash chromatography (SiO2, hexanes:EtOAc 10:1) to give the desired compound as a colorless oil (0.550 g, 1.59 mmol, 58% yield).

reactant | 4-methoxy-N-[2-(3-methoxy-phenyl)-ethyl]-N-phenyl-benzamide | COC1=CC=C(C(=O)N(C2=CC=CC=C2)CCC2=CC(=CC=C2)OC)C=C1 | C23H23NO3
reactant | NaBH4 | 2.77 mmol, 0.105 g | [BH4-].[Na+]
reactant | NaBH4 | 2.77 mmol, 0.105 g | [BH4-].[Na+]
solvent | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 6-Methoxy-1-(4-methoxy-phenyl)-2-phenyl-1,2,3,4-tetrahydroisoquinoline | 1.59 mmol, 0.550 g, 58% yield | COC=1C=C2CCN(C(C2=CC1)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C23H23NO2
